Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Erythromycin Base / Streptomycin / Citric Acid / 
Atenolol / Torsemide / Heparin Agents
 
Attending: ___
 
___ Complaint:
fevers, vomiting, AMS

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
History of Present Illness:  Mr. ___ is an ___ male with 
history of CAD s/p stenting, CHF (EF 55%), Afib, prior cardiac 
arrest and heart block s/p pacer/AICD placement, chronic trach, 
and recent MRSA bacteremia on vancomycin who presents from rehab 
with a one day history of fevers and vomiting, as well as AMS.  
Patient has had several recent admissions, including admission 
from ___ for PNA and MRSA bacteremia/sepsis.  Was 
discharged to rehab on vanco, readmitted ___ for hematuria 
and GI bleed (blood in ostomy bag), and again readmitted 
___ with persistent fevers and positive MRSA blood 
cultures.  Source of MRSA bacteremia was unclear, and work-up 
during that time included TTE/TEE negative for vegetations on 
valves and cardiac pacer leads, and negative tagged WBC scan.  
PICC was removed and replaced.  Patient discharged on planned 6 
week course of vanco through ___.  Hospital course also 
notable for pseudomonas and klebsiella UTI, treated with 7 day 
courses of cefepime and tobramycin.  Patient had Foley changed 
during that admission.  Was discharged back to ___ 
___.  
.
Since discharge, has been noted to have worsening renal function 
requiring nephrology consult, and in this setting his diuretic 
regimen was held.  Also had increasing SOB requiring pulmonary 
consult, with change in vent settings from pressure support to 
AC mode.  Has had recurrent GI bleed requiring transfusion of 2 
units pRBCs on ___, and has been continued on PPI, 
sucralfate, and iron supplementation.  Per report, usually 
responds to wife, but was less responsive over past ___ days.  
On day of admission had several episodes of vomiting, and per 
wife was febrile to 101.  Sent to ED for further evaluation. 
.
In the ED, initial VS were: 98.2 69 106/51 20 95% assist 
control.  Labs notable for leukocytosis (WBC 14.2) with 
neutrophil predominance, Hct 26.3 (stable), Na 127, Cr 3.5 
(baseline 1.4), lactate 1.2.  UA suggestive of recurrent UTI.  
CXR showed moderate pulmonary edema with bilateral pleural 
effusions, and was similar to recent prior studies.  Given LUE 
edema, ultrasound obtained which was negative for DVT.  Patient 
received vancomycin and cefepime.  Also got ASA given elevated 
trop of 0.2.  ECG showed paced rhythm.  Patient had 1L NS hung 
prior to transfer.  VS prior to transfer 100.0 70, 112/82, 15, 
99%.  
.  
On arrival to the MICU, patient nods yes when asked if he is in 
pain, but he cannot localize the pain.  Appears comfortable when 
resting in bed, though uncomfortable when examined.
.

 
Past Medical History:
Rectal cancer s/p excision and XRT (___)
CAD s/p stents (?___)
CVA in ___ with residual right hand dysthesia
Complete heart block s/p pacemaker 
H/o cardiac arrest (now with AICD) 
GI bleed secondary to angiectasias in the duodenum (___) s/p 
cauterization via EGD 
Atrial fibrillation, not on coumadin
Systolic CHF (EF 40-45%)  
S/p Fall with multiple rib fractures (___)  
MICU admission ___ for hemoptysis, bleeding from 
trach
Abdominoperineal resection ___ w/ ___

 
Social History:
___
Family History:
Father died in ___ from MI. Mother died in ___ from PE. No 
family history of colon, breast, uterine, or ovarian cancer. No 
family history of seizures.
 
Physical Exam:
ADMISSION EXAM:
General: easily arousable to voice, frequently falls to sleep, 
oriented to person and place, unable to assess if oriented to 
time (could not interpret patient's answer), appears comfortable 
at rest 
HEENT: PERRL, EOMI, sclera anicteric, dry MM, oropharynx clear  
Neck: supple, JVP 8-9cm, trach in place
CV: RRR, normal S1 + S2, II/VI holosystolic murmur loudest at 
apex and radiating to axilla
Lungs: bilateral rhonchi with scattered crackles, no wheezing
Abdomen: bowel sounds present, soft, mildly distended, diffuse 
mild  tenderness to palpation, suprapubic tenderness, ostomy bag 
in place GU: foley in place
Ext: slighty cool, 2+ pulses, venous stasis changes, 2+ edema to 
knees bilaterally   

DISCHARGE EXAM
HEENT: PERRL, EOMI, sclera anicteric, dry MM, oropharynx clear  
Neck: supple, JVP 8-9cm, trach in place
CV: RRR, normal S1 + S2, II/VI holosystolic murmur loudest at 
apex and radiating to axilla
Lungs: bilateral rhonchi with scattered crackles, no wheezing
Abdomen: bowel sounds present, soft, mildly distended, diffuse 
mild  tenderness to palpation, suprapubic tenderness, ostomy bag 
in place GU: foley in place
Ext: slighty cool, 2+ pulses, venous stasis changes, 2+ edema to 
knees bilaterally

 
Pertinent Results:
ADMISSION LABS
___ 06:25PM BLOOD WBC-14.2*# RBC-3.15* Hgb-8.9* Hct-26.3* 
MCV-83 MCH-28.2 MCHC-33.8 RDW-15.4 Plt ___
___ 06:25PM BLOOD Neuts-82.8* Lymphs-6.4* Monos-10.2 
Eos-0.3 Baso-0.4
___ 06:25PM BLOOD ___ PTT-35.8* ___
___ 06:25PM BLOOD Glucose-108* UreaN-117* Creat-3.5*# 
Na-127* K-4.5 Cl-85* HCO3-28 AnGap-19
___ 06:25PM BLOOD ALT-52* AST-65* AlkPhos-258* TotBili-1.7*
___ 02:26AM BLOOD Albumin-2.8* Calcium-8.4 Phos-3.5 Mg-2.2

DISCHARGE LABS
___ 03:32AM BLOOD WBC-4.9 RBC-2.90* Hgb-8.2* Hct-25.5* 
MCV-88 MCH-28.2 MCHC-32.0 RDW-16.2* Plt ___
___ 12:11AM BLOOD ___ PTT-36.1* ___
___ 03:32AM BLOOD Glucose-74 UreaN-96* Creat-2.7* Na-140 
K-3.7 Cl-102 HCO3-23 AnGap-19
___ 03:02AM BLOOD CK(CPK)-21*
___ 03:32AM BLOOD Calcium-8.4 Phos-4.9* Mg-2.0

MICROBIOLOGY
___ BLood Culture
   STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------   =>8 R
DAPTOMYCIN------------       S
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   =>8 R
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------     2 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------ <=0.5 S

___ Urine Culture
   URINE CULTURE (Final ___: 
      ENTEROCOCCUS SP..    >100,000 ORGANISMS/ML.. 
         Sensitivity testing performed by Sensititre. 
         Daptomycin = 1 MCG /ML. 
      YEAST.    10,000-100,000 ORGANISMS/ML.. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROCOCCUS SP.
                             |   
AMPICILLIN------------     1 S
DAPTOMYCIN------------       S
LINEZOLID-------------     1 S
TETRACYCLINE----------  =>32 R
VANCOMYCIN------------  >256 R

___ Sputum culture
___ 7:00 pm SPUTUM      Source: Endotracheal. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      THIS IS A CORRECTED REPORT ___ AT 3:00 ___. 
      Reported to and read back by ___. 
      >25 PMNs and <10 epithelial cells/100X field. 
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      ___ PREVIOUSLY REPORTED AS. 
      <10 PMNs and >10 epithelial cells/100X field. 
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 

   RESPIRATORY CULTURE (Final ___: 
      Commensal Respiratory Flora Absent. 
      PSEUDOMONAS AERUGINOSA.    HEAVY GROWTH. 
         Piperacillin/Tazobactam sensitivity testing performed 
by ___
         ___. 
      KLEBSIELLA PNEUMONIAE.    SPARSE GROWTH. 
         Piperacillin/tazobactam sensitivity testing available 
on request. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |          KLEBSIELLA PNEUMONIAE
                             |          |   
AMPICILLIN/SULBACTAM--             =>32 R
CEFAZOLIN-------------             =>64 R
CEFEPIME--------------    16 I      <=1 S
CEFTAZIDIME-----------    32 R     =>64 R
CEFTRIAXONE-----------               16 R
CIPROFLOXACIN---------   =>4 R      =>4 R
GENTAMICIN------------     8 I        2 S
MEROPENEM-------------     8 I   <=0.25 S
PIPERACILLIN/TAZO-----       R
TOBRAMYCIN------------   <=1 S     =>16 R
TRIMETHOPRIM/SULFA----              <=1 S

___ Sputum
Time Taken Not Noted     Log-In Date/Time: ___ 2:50 am
      SPUTUM

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      NO MICROORGANISMS SEEN. 

   RESPIRATORY CULTURE (Final ___: 
      RARE GROWTH Commensal Respiratory Flora. 
      STAPH AUREUS COAG +.    RARE GROWTH. 
         Oxacillin RESISTANT Staphylococci MUST be reported as 
also
         RESISTANT to other penicillins, cephalosporins, 
carbacephems,
         carbapenems, and beta-lactamase inhibitor combinations. 

         Rifampin should not be used alone for therapy. 
         This isolate is presumed to be resistant to clindamycin 
based on
         the detection of inducible resistance . 
      YEAST.    SPARSE GROWTH. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------       R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   =>8 R
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------ <=0.5 S

___ Urine Culture
___ 12:29 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      YEAST.    10,000-100,000 ORGANISMS/ML.. 

___ RUQ US
RIGHT UPPER QUADRANT ULTRASOUND: The liver is normal in 
echotexture without focal lesions. There is no intrahepatic or 
extrahepatic biliary ductal dilatation. The normal CBD measures 
5 mm in diameter. Again noted is a large gallstone, measuring 
2.7 cm, in the non-fully distended gallbladder. The gallbladder 
wall is mildly thickened measuring up to 5 mm, nonspecific. 
There is normal hepatopetal portal venous flow. The enlarged 
spleen measures up to 16.6 cm. The visualized IVC, aorta and 
pancreas are grossly unremarkable.  Trace ascites is noted.  
  
IMPRESSION: 
1. Known cholelithiasis. 
2. Mildly thickened gallbladder wall, unchanged and 
non-specific, could be 
seen in right heart failure, hypoalbuminemia or other liver 
disease. No 
ultrasound findings to suggest acute cholecystitis. 
3. Splenomegaly. 

___ LUE US
IMPRESSION: No DVT left upper extremity with a left basilic PICC 
in place.

___ G-tube check
REASON FOR EXAMINATION: Evaluation of the percutaneous 
gastrostomy tube with bleeding and leakage throughout the tube.  
AP radiograph of the abdomen after injection of contrast 
material through the percutaneous gastrostomy is noted. The 
contrast material is demonstrated in the stomach as well as in 
the duodenum and jejunum. No definitive evidence of 
extravasation is noted. If clinically warranted, correlation 
with cross-sectional imaging might be considered. 
  
Wound Care recomendations: Recommendations:

1. Follow pressure ulcer guidelines. Atmos Air. Turn q 2 hours.
2. Cleanse wounds with commercial wound cleanser. Pat dry.
3. Apply Aquacel ag to sacrum wound, cover with 4x4's and 
   Soft sorb dressing, secure with Medipore tape. Change daily.
4. LLE anterior excoriation - cover with Adaptic dressing, place 

   4x4,and wrap with Kerlix. Secure with paper tape. Change 
   daily.
5. No tape on skin.
6. Left Trochanter - apply Mepilex 4x4 to site, and change 
   q3 days.
7. Cleanse scrotum and perineum area with Aloe Vesta foam 
   cleanser daily. Pat dry.
8. Apply Critic Aid clear skin barrier ointment to scrotal 
tissue
   to protect from fluid exposure daily. Elevate scrotum to
   assist with edema.
9. Waffles bilateral feet.
10. Apply Aquaphor ointment to dry intact skin daily from 
    pharmacy daily.

Ostomy Care:  LLQ, ___, red, flush, os at center, 
mucocutaneous junction
intact, peristomal skin intact with large parastomal hernia.  
Pouched with ___ Sura one piece drainable, ___ # 
___, ___ # ___. No-sting barrier wipe, ___ # ___, ___ # 
___. Nursing staff to change pouch q ___ and ___ while 
her.

 
Brief Hospital Course:
___ male with extensive cardiac PMH, recent MRSA bacteremia, 
trach on chronic mechanical ventilation, and chronic foley 
catheter with recent pseudomonal/klebsiella UTI, who presents 
now from rehab with fever, leukocytosis, vomiting, and AMS in 
setting enterococcus and yeast UTI, ___, MRSA bacteremia, 
hematochezia, and Stage 4 sacral decubitus ulcer.
.
ACUTE ISSUES
#. MRSA Bacteremia:  Pt had recurrent MRSA bacteremia in the 
settting of vancomycin treatment.  We are particularly concerned 
about endocarditis from ICD given the refractory nature.  
However, removal of instrumentation is not an option per patietn 
and family wishes.  Source of infection include sacral 
decubitous ulcer, UTI, ventilation.  Pt does not have 
leukocytosis or fever.  Chronic colonization likely.  Complete 
bacterial clearance is unlikely in this setting.  
OUTPATIENT ISSUES
- START Daptomycin indefinitely
- PICC line in place, routine care
.
#. GIB: Pt presented with HCT drop and Bright red blood through 
ostomy.  He received a total of 3 units pRBC blood transfusion. 
We temporarily stopped tube feeding the setting of GIB, and 
discontinued his aspirin.  His HCT has been stable in the past 
48 hours without transfusion.  GI has been consulted, and did 
not feel that the benefit of osteostomy-scope outweighs its 
risk.
OUTPATIENT ISSUES
- CONTINUE tube feeding as scheduled
- STOP aspirin and anti-platelets forever. 
- START pantoprazole 40 mg iv bid
- CONTINUE ferrous sulfate, sucrafate
.
#. ___: Pt presented with elevated Cr to 3.5 on admission with 
anuria.  There was muddy brown cast on urine sedimentation, 
concerning for ATN in the setting of sepsis and tobramycin 
exposure.  We gave him gentle fluid challenge, and his urine 
output recovered shortly afterwards.  His creatinine decreased 
to 2.7 on the day of discharge.  This may or may not ever go 
back down to his previous baseline.  Regardless, he's not anuric 
and patient and family have refused initiation of dialysis.
OUTPATIENT ISSUES
- AVOID nephrotoxic medication
- DISCONTINUE Lisinopril
.
#. Hematuria and UTI:  Pt has indwelling foley catheter and 
presented with hematuria and positive UA.  Urine culture was 
notable for VRE, fungus.  We treated him with meropenem and 
fluconazole while he was in the MICU.  He received bladder 
irrigation for hematuria.  His hematuria resolved on the day of 
discharge.  Pt was asymptomatic from his UTI.  We felt it is 
impossible to completely treat his UTI.  We decided to 
withdrawal treatment for now to minimize the hepatic and renal 
drug intoxication.
.
#. Decubitus ulcer: Pt has a Stage 4 decubitus ulcer over sacrum 
and left thigh.  The pain from decubitous ulcer is his major 
concern while he was here.  He was seen by wound care.  They 
advise supportive care.
OUTPATIENT ISSUES
- Pleae CHANGE BODY POSITION every 2 hours
- Please provide adequate pain management with lidocaine patch, 
fentanyl, oxycodone.
.
#. Positive sputum culture: Pt has trach tube.  His sputum 
culture grew multiresistant klebsiella and pseudomonas.  Pt 
remained afebrile, no leukocytosis, left shift or increased 
sputum production.  We felt the complete irradiation was unlikey 
given his current clinical status and suspect he has permanent 
colonization.
.  
CHRONIC ISSUES
#. Chronic dCHF: Pt has diastolic CHF.  We continued his 
beta-blocker for the need of rate control.  We held his 
lisinopril in an hope of protecting his current kidney function. 
 We held his aspirin in the setting of GI bleeding.  We felt 
that active treatment for his CHF is less of a priority.
OUTPATIENT ISSUES
- DISCONTINUED Aspirin and all antiplatelet drugs
- DISCONTINUED Lisinopril
.
#. Atrial fibrillation: Pt is AV paced on telemetry. Not on 
anticoagulation given history of GI bleeding.  Rate controlled 
with carvedilol.
OUTPATIENT ISSUES
- Per our EP recommendation, they can disable the defibrillator 
function, while still keep AV pacing, if there is a need in the 
change of goal of care.  
.
# Depression: Continue citalopram.
.
TRANSITIONAL ISSUES
Pt declared a code status of DNR/DNI.  Extensive discussion has 
occurred between family and care provider team on goal of care.  
In general, our understanding is that family would like 
continued conservative treatment, with no invasive procedure, 
including the use of pressors.  We have conveyed clearly to the 
family that clinical improvement is unlikely in the current 
situation.  Pt's family expressed concerns that patient has not 
been getting enough comfort care (ie skin, wound, pain).
.
The wife has expressed continued frustration with being 
transferred back and forth from rehab to the hospital.  We 
assured her that the care provided to him at rehab is very good. 
 In general, we'd try to limit the number of unecessary 
hospitalizations.  We explained to the family, with the son 
present in the room, that the patient's condition is stable, but 
ultimately is declining.  We explicity told them that things are 
probably as good as they'll ever be, and that in the future he 
will have a slow and steady decline.  We are limited in 
interventions that can be done here in hospital and have 
conveyed that to his family.   
.
.

 
Medications on Admission:
Acetylcysteine 100mg TID intratracheal
Carvedilol 6.25mg BID
Citalopram 20mg daily
Docusate sodium 100mg BID
Ferrous sulfate elixir 325mg daily
Folic acid 1mg daily
Lidocaine patch daily
MVI daily
Omeprazole 20mg daily
Simethicone 80mg BID
Sucralfate 1gm TID
Fentanyl 12mcg patch Q72hrs
Acetaminophen 650mg Q6H prn pain
Albuterol inhaler 2 puffs Q4H prn SOB
Psyllium 1 teaspoon TID
Oxycodone 5mg Q4H prn pain 

 
Discharge Medications:
OxycoDONE (Immediate Release)  ___ mg PO/NG Q4H:PRN pain hold 
for sedation or RR <12  
Citrate ___ mcg IV Q4H:PRN dressing changes 
Albuterol Inhaler 6 PUFF IH Q4H:PRN shortness of breath, 
wheezing 
Pantoprazole 40 mg IV Q12H
Daptomycin 540 mg IV Q48H 
Acetaminophen (Liquid) 650 mg PO/NG Q6H:PRN pain  
Fentanyl Patch 12 mcg/hr TP Q72H last changed ___ @ 12:45
Sucralfate 1 gm PO/NG TID
Simethicone 80 mg PO/NG TID
Multivitamins 1 TAB PO/NG DAILY
Lidocaine 5% Patch 1 PTCH TD DAILY
FoLIC Acid 1 mg PO/NG DAILY
Ferrous Sulfate (Liquid) 300 mg PO/NG DAILY
Docusate Sodium (Liquid) 100 mg PO/NG BID
Citalopram 20 mg PO/NG DAILY  
Carvedilol 6.25 mg PO/NG BID
MVI daily
Psyllium 1 teaspoon TID
Acetylcysteine 100mg TID intratracheal

Pt was administered the flu vaccine ___
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
MRSA bacteremia with likely pacemaker colonization, multiple 
decubitus ulcers, ventilator dependence, acute kidney injury, 
gastrointestinal bleeding, urinary tract infection, chronic 
congestive heart failure.
 
Discharge Condition:
fair
 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of you in the intensive care unit. 
 As you know, the blood stream infection is probably chronic and 
it would basically be impossible to cure of you that.  We 
believe that your pacemaker is colonized with the bacteria, and 
it would be impossible to remove it.  You also have a urinary 
tract infection, and you were bleeding somewhere in your 
intestines.  Fortunately the bleeding stopped.  You also have a 
chronic heart failure, which you are aware.  Your kidney 
insufficiency may resolve, but it may not.  

You were also administered the flu vaccine while you were here.

 
Followup Instructions:
___